US07173043B2
In analogy to example 16.1, Methanesulfonic acid 3-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl ester and Dimethylamine (10 equivalents of a 5.6 M EtOH solution) were converted to yield {3-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl}-dimethyl-amine as light brown solid, MS: 327 (MH+, 1Cl).

reactant | Methanesulfonic acid 3-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCOS(=O)(=O)C | C17H12ClNO3S2
reactant | Dimethylamine | CNC | C2H7N
solvent | EtOH | 5.6 M | CCO | C2H6O
product | {3-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl}-dimethyl-amine | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCN(C)C | C18H15ClN2S
